US08209132B2
Protein samples were prepared for SDS-PAGE by diluting 1:1 with 2× denaturing buffer (40 μg/ml SDS, 20% glycerol, 30 μg/ml DTT and 10 μg/ml bromophenol blue in 125 mM Tris, pH 6.8) and boiling for 2 min. Pre-cast Nu-PAGE 10% Bis-Tris protein gels were obtained from Invitrogen (Carlsbad, Calif.). Each lane was loaded with a maximum of 10 μl of sample, and run for 50 min at 200V. After electrophoresis was complete, the gel was stained with Invitrogen SafeStain (1 hour in staining solution, then washed overnight with water).

reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | DTT | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | bromophenol blue | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=C(C(=C(C3)Br)O)Br)C=4C=C(C(=C(C4)Br)O)Br | C19H10Br4O5S
reactant | Tris | 125 mM | C(C(CO)(CO)N)O | C4H11NO3
product | Bis-Tris | 10% | C(CO)N(CCO)C(CO)(CO)CO | C8H19NO5
